US07332485B2
Dimethyl Cyclohexane-1,1-Dicarboxylate
A solution of methyl cyclohexanecarboxylic acid (2.0 g, 14.06 mmol) in THF (5 mL) was added dropwise to a solution of lithium diisopropylamine (2.28 g, 21.1 mmol) in THF (20 mL) at −78° C. After stirring for 1 h at the same temperature, a solution of methylchloroformate (2.0 g, 21.1 mmol) in THF (5 mL) was added slowly and the mixture was allowed to warm to room temperature. After 18 h the reaction mixture was quenched with saturated aqueous NH4Cl solution (20 mL). THF was removed in vacuo and the aqueous residue was extracted with EtOAc (50 mL×3). The combined organic layers were dried (MgSO4). After removal of the solvent under reduced pressure, purification by flash column chromatography using an eluting system of hexane/EtOAc (80:20) yielded the title compound (2.8 g, 99%). MH+201.

reactant | methyl cyclohexanecarboxylic acid | 14.06 mmol, 2.0 g | CC1(CCCCC1)C(=O)O | C8H14O2
reactant | lithium diisopropylamine | 21.1 mmol, 2.28 g | C(C)(C)NC(C)C.[Li]
reactant | methylchloroformate | 21.1 mmol, 2.0 g | COC(=O)Cl | C2H3ClO2
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | Dimethyl Cyclohexane-1,1-Dicarboxylate | 2.8 g, 99% | C1(CCCCC1)(C(=O)OC)C(=O)OC | C10H16O4
